US09278951B2
Synthesis of 1-octyl-3-methylquinoline-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) will be dissolved into acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) will be added and the mixture will be allowed to stir for 0.5 h. 1-bromooctane (9 mmol) will be added and the solution will be allowed to reflux overnight. The solution will be filtered hot to remove a white precipitate (presumed to be KBr). 2-chloromethylquinoline hydrochloride (9 mmol) will be dissolved into acetonitrile along with an equivalent of base. This mixture will be added to the previous mixture and will be returned to reflux overnight. The mixture will be allowed to cool to room temperature, resulting in a yellow/white precipitate.

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromooctane | 9 mmol | BrCCCCCCCC | C8H17Br
reactant | 2-chloromethylquinoline hydrochloride | 9 mmol | Cl.ClCC1=NC2=CC=CC=C2C=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-octyl-3-methylquinoline 4,5-dichloroimidazolium bromide | C(CCCCCCC)N1CC(=CC2=CC=CC=C12)C.[Br-].ClC=1NC=[NH+]C1Cl | InChI=1S/C18H27N.C3H2Cl2N2.BrH/c1-3-4-5-6-7-10-13-19-15-16(2)14-17-11-8-9-12-18(17)19;4-2-3(5)7-1-6-2;/h8-9,11-12,14H,3-7,10,13,15H2,1-2H3;1H,(H,6,7);1H
